US04256757
1-[(4E,6E)-7-ethoxycarbonyl-1,1-dimethyl-4,6-heptadienyl]imidazole
Under an atmosphere of nitrogen, 2.0 g of diethyl (E)-3-ethoxycarbonyl-2-propenylphosphonate was added dropwise to 25 ml of a 0.32 M solution of lithium diisopropylamide in tetrahydrofuran at -78° C. and the mixture was stirred at -70° C. for 30 minutes. To it was added a solution of 1.0 g of 1-(3-formyl-1,1-dimethylpropyl)imidazole (prepared as described hereafter) in 2 ml of tetrahydrofuran at -70° C., the mixture was stirred at room temperature for 30 minutes. To it was added 0.91 ml of acetic acid. After evaporation under reduced pressure, the residue was dissolved in chloroform, washed with a saturated aqueous solution of sodium bicarbonate, water, dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of chloroform and ethanol (99:1) as eluent to give 0.85 g of the title compound having the following physical characteristics:

reactant | diethyl (E)-3-ethoxycarbonyl-2-propenylphosphonate | 2.0 g | C(C)OC(=O)/C=C/CP(OCC)(OCC)=O | C10H19O5P
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(3-formyl-1,1-dimethylpropyl)imidazole | 1.0 g | C(=O)CCC(C)(C)N1C=NC=C1 | C9H14N2O
reactant | acetic acid | 0.91 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-[(4E,6E)-7-ethoxycarbonyl-1,1-dimethyl-4,6-heptadienyl]imidazole | 0.85 g | C(C)OC(=O)/C=C/C=C/CCC(C)(C)N1C=NC=C1 | C15H22N2O2
